US06743791B2
3-Methoxy-1-[5-(2,2,2-trichloro-acetyl)-1H-pyrrol-3-yl]-propan-1-one
To a solution of 2-trichloroacetyl pyrrole (1.0 equivalent, 4.67 g, 22 mmol) in methylene chloride (5 mL) was added 3-methoxypropionyl chloride (1.0 equivalent, 22 mmol) then aluminium trichloride (1.0 equivalent, 2.93 g, 22 mmol) was added in small portions. After 2.5 hours, the crude mixture was chromatographed on silica gel (MeOH 2% in DCM) to afford 3.0 g of the Friedel-Craft product. 1H NMR consistent with structure.

reactant | 2-trichloroacetyl pyrrole | 22 mmol, 4.67 g, 1.0 equivalent | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | 3-methoxypropionyl chloride | 22 mmol, 1.0 equivalent | COCCC(=O)Cl | C4H7ClO2
reactant | aluminium trichloride | 22 mmol, 2.93 g, 1.0 equivalent | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-1-[5-(2,2,2-trichloro-acetyl)-1H-pyrrol-3-yl]-propan-1-one | COCCC(=O)C1=CNC(=C1)C(C(Cl)(Cl)Cl)=O | C10H10Cl3NO3
